US03984573
A mixture of 50 g (0.32 mole) of 2-mercaptobenzoic acid, 30 g (0.5 mole) of n-propanol, 200 ml of benzene and 1.0 g of sulfuric acid (93%) was stirred at reflux in a flask equipped with a condenser and Dean-Stark water separator. After 24 hours at reflux, 6.0 ml of water was collected in the water separator. The mixture was cooled to ambient temperature, washed with 150 ml of 10% sodium carbonate solution, washed with three 150 ml water washes, dried over sodium sulfate, filtered and concentrated using a rotary evaporator. The residual oil was distilled to give n-propyl 2-mercaptobenzoate: 41.5 g (62% yield); bp 103°C/0.5 mm; mol wt 196:

reactant | 2-mercaptobenzoic acid | 0.32 mole, 50 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | n-propanol | 0.5 mole, 30 g | C(CC)O | C3H8O
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
reactant | sulfuric acid | 1.0 g | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | n-propyl 2-mercaptobenzoate | 62% yield | SC1=C(C(=O)OCCC)C=CC=C1 | C10H12O2S
